US04000302
Reaction of N-cyano-N'-[2-(2-thiazolylmethylthio)ethyl]-S-methylisothiourea, prepared by reacting 2-[(2-aminoethyl) thiomethyl]thiazole with dimethyl-N-cyanoimidothio carbonate in ethanol by the procedure of Example 97, with ethylamine in ethanol under reflux for 8 hours gives N-cyano-N'-ethyl-N"-[2-(2-thiazolylmethylthio)ethyl]-guanidine.

reactant | N-cyano-N'-[2-(2-thiazolylmethylthio)ethyl]-S-methylisothiourea | C(#N)NC(SC)=NCCSCC=1SC=CN1 | C9H12N4S3
reactant | 2-[(2-aminoethyl) thiomethyl]thiazole | NCCSCC=1SC=CN1 | C6H10N2S2
reactant | ethylamine | C(C)N | C2H7N
solvent | ethanol | C(C)O | C2H6O
product | N-cyano-N'-ethyl-N"-[2-(2-thiazolylmethylthio)ethyl]-guanidine | C(#N)NC(=NCCSCC=1SC=CN1)NCC | C10H15N5S2
